US07977351B2
3-(5-Ethyl-5H-furo[3,4-b]pyridin-7-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (966 mg, 6.4 mmol.) in THF (6 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (12.8 mL of a 1 M solution in THF, 12.8 mmol) dropwise. The resulting solution is stirred at 0° C. for 10 min and warmed to room temperature. A solution of 5-ethyl-5H-furo[3,4-b]pyridin-7-one, (697 mg, 4.27 mmol) in THF (7 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h. The reaction mixture is poured into aqueous 10% HCl solution (160 mL). The resulting mixture is heated to 90° C. for 45 min and stirred at room temperature for 36 h. The precipitate which formed is collected by filtration washed with small volumes of ethyl acetate (10×3 mL) and dried to give the title compound as a yellow solid (205 mg, 16%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 6.4 mmol, 966 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-ethyl-5H-furo[3,4-b]pyridin-7-one | 4.27 mmol, 697 mg | C(C)C1OC(C2=NC=CC=C21)=O | C9H9NO2
reactant | HCl | 160 mL | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 3-(5-Ethyl-5H-furo[3,4-b]pyridin-7-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 205 mg, 16% | C(C)C1OC(C2=NC=CC=C21)=C2C(NC1=CC=C(C=C21)F)=O | C17H13FN2O2
